US09290451B2
b) 1-Methyl-1-[1,2,4]oxadiazol-3-yl-ethylamine hydrochloride
tert-Butyl 2-(1,2,4-oxadiazol-3-yl)propan-2-ylcarbamate (0.668 g, 2.9 mmol) was dissolved in in ethyl acetate saturated with hydrochloride (10 mL) and stirred at room temperature for 0.5 h. Then it was concentrated to give product (0.45 g, 94%); MS (EI): m/e=128.2 [M+H]+.

reactant | tert-Butyl 2-(1,2,4-oxadiazol-3-yl)propan-2-ylcarbamate | 2.9 mmol, 0.668 g | O1N=C(N=C1)C(C)(C)NC(OC(C)(C)C)=O | C10H17N3O3
reactant | hydrochloride | 10 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-1-[1,2,4]oxadiazol-3-yl-ethylamine hydrochloride | 0.45 g, 94% | Cl.CC(C)(C1=NOC=N1)N | InChI=1S/C5H9N3O.ClH/c1-5(2,6)4-7-3-9-8-4;/h3H,6H2,1-2H3;1H
